US08686002B2
3-(2-Methoxybenzyl)-1,7-naphthyridin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 3-amino-4-pyridine carboxaldehyde and 3-(2-methoxyphenyl)propionitrile.

reactant | 3-amino-4-pyridine carboxaldehyde | NC=1C=NC=CC1C=O | C6H6N2O
reactant | 3-(2-methoxyphenyl)propionitrile | COC1=C(C=CC=C1)CCC#N | C10H11NO
product | 3-(2-Methoxybenzyl)-1,7-naphthyridin-2-amine | COC1=C(CC=2C(=NC3=CN=CC=C3C2)N)C=CC=C1 | C16H15N3O
